US07253154B2
(4) 4-Amino-6-hydroxy-5-(4-isobutoxy-3-nitrobenzoyl)aminopyridine
4,5-Diamino-6-hydroxypyrimidine (527 mg, 4.18 mmol) was added to an aqueous suspension of sodium hydrogen carbonate (3.15 g, 41.8 mmol) in water (10 mL) under cooling with ice. Subsequently, a solution of 4-isobutoxy-3-nitrobenzoyl chloride (1.08 g, 4.18 mmol) in ethyl acetate (10 mL) was added. The resulting mixture was stirred for 3 hours under cooling with ice, made acetic by addition of 6 M hydrochloric acid, placed under reduced pressure at room temperature to distill ethyl acetate off, and stirred for 30 min. at room temperature. The precipitated solid product was collected by filtration, washed successively with water and diethyl ether, and dried successively in air and reduced pressure, to give 963 mg (yield 69%) of the desired compound in the form of a powdery product.

reactant | 4,5-Diamino-6-hydroxypyrimidine | 4.18 mmol, 527 mg | NC1=NC=NC(=C1N)O | C4H6N4O
reactant | sodium hydrogen carbonate | 41.8 mmol, 3.15 g | C(O)([O-])=O.[Na+]
reactant | 4-isobutoxy-3-nitrobenzoyl chloride | 4.18 mmol, 1.08 g | C(C(C)C)OC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C11H12ClNO4
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-Amino-6-hydroxy-5-(4-isobutoxy-3-nitrobenzoyl)aminopyridine | 963 mg, yield 69% | NC1=CC=NC(=C1NC(C1=CC(=C(C=C1)OCC(C)C)[N+](=O)[O-])=O)O | C16H18N4O5
